US05942515
Preparation of 2-benzyloxyacetyl-γ-butyrolactone:
A solution of 10.6 ml of diisopropylamine in 75 ml of tetrahydrofuran was chilled to -70° C., and 46 ml of a 1.6N hexane solution of n-butyllithium were added dropwise to the solution. After completion of the addition, the mixture was stirred for 15 minutes, and a solution of 54.8 g of γ-butyrolactone in 50 ml of tetrahydrofuran was added dropwise over 55 minutes, and the mixture was stirred for 50 minutes. Further, a solution of 14.75 g of ethyl benzyloxyacetate in 50 ml of tetrahydrofuran was added, and the resultant mixture was stirred for 2.5 hours at -60 to -50° C. 5N hydrochloric acid was then added so as not to exceed 20° C. to adjust the pH of the mixture to 1-2. Ethyl acetate was added to the reaction system, and the resultant mixture was washed with a saturated saline solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The thus-obtained crude product was subjected to column chromatography on silica gel (elution solvent: hexane:ethyl acetate=3:1→2:1→1:1) to obtain 13.01 g (yield: 87.2%) of the intended product as a colorless oil.

reactant | diisopropylamine | 10.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | γ-butyrolactone | 54.8 g | C1(CCCO1)=O | C4H6O2
reactant | ethyl benzyloxyacetate | 14.75 g | C(C1=CC=CC=C1)OCC(=O)OCC | C11H14O3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | 1.6N | CCCCCC | C6H14
product | 2-benzyloxyacetyl-γ-butyrolactone | 13.01 g, yield: 87.2% | C(C1=CC=CC=C1)OCC(=O)C1C(=O)OCC1 | C13H14O4
